US07402698B2
A solution of 2-trifluoromethyl phenol (5.0 g, 30.86 mmol) and hexamethylenetetramine (8.64 g, 61.72 mmol) in trifluoracetic acid (50 mL) was heated at 65° C. for 18 h. At the end of this time the solution was concentrated and diluted with a 2N aqueious solution of hydrochloric acid. The acid phase was extracted twice with ethyl acetate and the combined organic extract dried over magnesium sulfate and concentrated. The residue was subjected to chromatography via Biotage (FLASH 40 M, silica, 20% ethyl acetate/hexane) to yield 2.1 g (36%) of 4-hydroxy-3-(trifluoromethyl)benzaldehyde. MS (ES) m/z 188.9; HRMS: calcd for C8H5F302, 190.0242; found (ESI, [M+H]+), 191.0324.

reactant | 2-trifluoromethyl phenol | 30.86 mmol, 5.0 g | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | hexamethylenetetramine | 61.72 mmol, 8.64 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoracetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-hydroxy-3-(trifluoromethyl)benzaldehyde | 2.1 g, 36% | OC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H5F3O2
